US04690931
1. 2-[4-(4-Fluorobenzyl)-piperidino]-4'-hydroxy-3',5'-dimethylpropiophenone
2.12 g (0.02 mol) of sodium carbonate are added to a mixture of 5.14 g (0.02 mol) of 2-bromo-4'-hydroxy-3',5'-dimethylpropiophenone and 4 g (0.02 mol) of 4-(4-fluorobenzyl)-piperidine in 25 ml of ethanol and the mixture is heated under reflux for 3 hours. It is left to stand overnight and then purified by chromatography on a column of silica using acetone as the eluant. This give 6.6 g of a brown oil, which is used as such.

reactant | sodium carbonate | 0.02 mol, 2.12 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-bromo-4'-hydroxy-3',5'-dimethylpropiophenone | 0.02 mol, 5.14 g | BrC(C(=O)C1=CC(=C(C(=C1)C)O)C)C | C11H13BrO2
reactant | 4-(4-fluorobenzyl)-piperidine | 0.02 mol, 4 g | FC1=CC=C(CC2CCNCC2)C=C1 | C12H16FN
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-[4-(4-Fluorobenzyl)-piperidino]-4'-hydroxy-3',5'-dimethylpropiophenone | FC1=CC=C(CC2CCN(CC2)C(C(=O)C2=CC(=C(C(=C2)C)O)C)C)C=C1 | C23H28FNO2
